US07354933B2
Preparation of (R)-5-methyl-1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 0.04 mmol of resin, 0.12 mmol of N-Fmoc-D-Ala(OH), 0.20 mmol of 4-quinolinecarboxaldehyde and 0.10 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 10 mg of expected product are obtained.

reactant | N-Fmoc-D-Ala(OH) | 0.12 mmol | N([C@H](CO)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO5
reactant | 4-quinolinecarboxaldehyde | 0.20 mmol | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 0.10 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | (R)-5-methyl-1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | FC(C(=O)O)(F)F.C[C@@H]1C(N(C(N1CC1=CC=NC2=CC=CC=C12)=O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | InChI=1S/C21H16F3N3O4S.C2HF3O2/c1-13-19(28)27(15-6-8-16(9-7-15)32(30,31)21(22,23)24)20(29)26(13)12-14-10-11-25-18-5-3-2-4-17(14)18;3-2(4,5)1(6)7/h2-11,13H,12H2,1H3;(H,6,7)/t13-;/m1./s1
